US08809402B2
A mixture of 5-amino-4′-methyl-biphenyl-3-carboxylic acid methyl ester (241 mg, 1.0 mmol), pyridine (0.5 mL), DMAP (10 mg) and 2-bromophenylacetyl chloride (253 mg, 1.1 equiv.) was stirred for one hour at room temperature. The mixture was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate, and the organic layer was separated and concentrated under reduced pressure to give crude 5-[2-(2-bromo-phenyl)-acetylamino]-4′-methyl-biphenyl-3-carboxylic acid methyl ester, which was used directly in the next step.

reactant | 5-amino-4′-methyl-biphenyl-3-carboxylic acid methyl ester | 1.0 mmol, 241 mg | COC(=O)C=1C=C(C=C(C1)N)C1=CC=C(C=C1)C | C15H15NO2
reactant | 2-bromophenylacetyl chloride | 253 mg, 1.1 equiv. | BrC1=C(C=CC=C1)CC(=O)Cl | C8H6BrClO
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | 5-[2-(2-bromo-phenyl)-acetylamino]-4′-methyl-biphenyl-3-carboxylic acid methyl ester | COC(=O)C=1C=C(C=C(C1)NC(CC1=C(C=CC=C1)Br)=O)C1=CC=C(C=C1)C | C23H20BrNO3
